US09334269B2
To a dried flask charged with tert-butyl 4-hydroxypiperidine-1-carboxylate (3.60 g, 17887 μmol) was added dry DMF (40 mL) and the resulting solution cooled in an ice water bath prior to the addition of NaH (60% in mineral oil) (748 mg, 18781 μmol) in two portions 5 min apart. The reaction mixture was stirred for 1 hr and allowed to warm to RT over that time. The resulting suspension was cooled in an ice water bath prior to the addition of a solution of 1-(bromomethyl)-4-(trifluoromethoxy)benzene (5018 mg, 19676 μmol) in DMF (5 mL) via syringe. The resulting reaction mixture was allowed to slowly warm to RT while stirring for 15 h. The resulting pale yellow suspension was carefully diluted with water (about 150 mL) and extracted 2× with EtOAc. The combined organics were dried with Na2SO4, filtered and concentrated under reduced pressure. The material was purified through silica gel column chromatography ramping ethyl acetate in hexanes from 0% to 10% over 5 mins, then remaining at 10% for 10 min, then ramping to 50% over 5 min providing tert-butyl 4-(4-(trifluoromethoxy)benzyloxy)-piperidine-1-carboxylate (5 g) as a white crystalline solid upon drying.

reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 17887 μmol, 3.60 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | NaH | 18781 μmol, 748 mg | [H-].[Na+]
reactant | 1-(bromomethyl)-4-(trifluoromethoxy)benzene | 19676 μmol, 5018 mg | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | about 150 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(4-(trifluoromethoxy)benzyloxy)-piperidine-1-carboxylate | 5 g | FC(OC1=CC=C(COC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C18H24F3NO4
